US06262095B1
To a solution of 6.22 g (30 mmol) of 2-amino-3-chloro-1,4-dihydro-1,4-dioxo-naphthalene in 60 mL of nitrobenzene, 18.00 mL (150 mmol) of 4-fluorobenzoic acid chloride are added with protection from light. After 10 min of stirring with reflux, 0.20 mL of concentrated sulfuric acid is added. After 12 h and complete cooling, ether is added to obtain a yellow precipitate which is filtered through fritted glass, washed with ether and purified on a flash column (support: silica; conditioning: heptane; eluant: dichloromethane/heptane, 60/40). The yellow powder obtained after evaporation of the solvent is uncolored, recrystallized in dichloromethane to produce 2.90 g of 4,9-dihydro-4,9-dioxo-2-(4-fluorophenyl)-naphtho[2,3-d]oxazole in the form of yellow crystals.

reactant | 2-amino-3-chloro-1,4-dihydro-1,4-dioxo-naphthalene | 30 mmol, 6.22 g | NC=1C(C2=CC=CC=C2C(C1Cl)=O)=O | C10H6ClNO2
reactant | 4-fluorobenzoic acid chloride | 150 mmol, 18.00 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | sulfuric acid | 0.20 mL | S(O)(O)(=O)=O | H2O4S
reactant | ether | CCOCC | C4H10O
solvent | nitrobenzene | 60 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 4,9-dihydro-4,9-dioxo-2-(4-fluorophenyl)-naphtho[2,3-d]oxazole | 2.90 g, Yield: 33% | O=C1C=2C=CC=CC2C(C2=C1N=C(O2)C2=CC=C(C=C2)F)=O | C17H8FNO3
